US09079889B2
Following Method 9, (+/−)-tert-butyl 5-(3-aminopyridin-4-yl)-7-methyl-2-oxohexahydrobenzo[d]oxazole-3(2H)-carboxylate and 6-bromo-5-fluoropicolinic acid were coupled and following addition of EtOAc and washing with H2O, NaCl(sat.) and drying over MgSO4, (+/−)-tert-butyl 5-(3-(6-bromo-5-fluoropicolinamido)pyridin-4-yl)-7-methyl-2-oxohexahydrobenzo[d]oxazole-3(2H)-carboxylate was obtained. LCMS (m/z): 549.2/551.2 (MH+), Rt=0.78 min.

reactant | (+/−)-tert-butyl 5-(3-aminopyridin-4-yl)-7-methyl-2-oxohexahydrobenzo[d]oxazole-3(2H)-carboxylate | NC=1C=NC=CC1C1CC(C2C(N(C(O2)=O)C(=O)OC(C)(C)C)C1)C | C18H25N3O4
reactant | 6-bromo-5-fluoropicolinic acid | BrC1=C(C=CC(=N1)C(=O)O)F | C6H3BrFNO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (+/−)-tert-butyl 5-(3-(6-bromo-5-fluoropicolinamido)pyridin-4-yl)-7-methyl-2-oxohexahydrobenzo[d]oxazole-3(2H)-carboxylate | BrC1=C(C=CC(=N1)C(=O)NC=1C=NC=CC1C1CC(C2C(N(C(O2)=O)C(=O)OC(C)(C)C)C1)C)F | C24H26BrFN4O5
